US07994185B2
N-{3-[2-(1,1-dimethylethyl)-5-(4-pyrimidinyl)-1,3-thiazol-4-yl]-2,4-difluorophenyl}-2,5-difluorobenzenesulfonamide
Following a procedure analogous to the procedure described in Example 26 using N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2,4-difluorophenyl}-2,5-difluorobenzenesulfonamide (75 mg, 0.135 mmol) and ammonium formate (85 mg, 1.347 mmol), the title compound was obtained as a yellow solid (21 mg, 29% yield). MS (ESI): 523 [M+H]+.

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2,4-difluorophenyl}-2,5-difluorobenzenesulfonamide | 0.135 mmol, 75 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C(=C(C=CC1F)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F | C23H17ClF4N4O2S2
reactant | ammonium formate | 1.347 mmol, 85 mg | C(=O)[O-].[NH4+]
product | N-{3-[2-(1,1-dimethylethyl)-5-(4-pyrimidinyl)-1,3-thiazol-4-yl]-2,4-difluorophenyl}-2,5-difluorobenzenesulfonamide | CC(C)(C)C=1SC(=C(N1)C=1C(=C(C=CC1F)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F)C1=NC=NC=C1 | C23H18F4N4O2S2
